US05210276
a) 6-hydroxy-2-tertbutoxycarbonylaminomethyl-tetraline
A mixture of 2-aminomethyl-6-hydroxytetraline (Preparation J in EP-A-436,435) (23.7 g, 0.09 mol) dimethylformamide (185 ml) and triethylamine (90 ml) is cooled to 0° C. Di-tertbutyl-dicarbonate (22.5 g, 0.010 mol) is then stirred in and stirring is continued at room temperature for 3 hours. The reaction mixture is poured into water (1 l) and extracted three times with ethyl ether. The organic extracts are combined, washed with water, dried and evaporated to dryness yielding a residue which is then purified by chromatography eluting with a mixture cyclohexane:ethyl acetate 7:3. Yield: 23 g. M.p. 114° C.

reactant | 2-aminomethyl-6-hydroxytetraline | 0.09 mol, 23.7 g | NCC1CC2=CC=C(C=C2CC1)O | C11H15NO
reactant | dimethylformamide | 185 ml | CN(C=O)C | C3H7NO
reactant | triethylamine | 90 ml | C(C)N(CC)CC | C6H15N
reactant | Di-tertbutyl-dicarbonate | 0.010 mol, 22.5 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 1 l | O | H2O
product | 6-hydroxy-2-tertbutoxycarbonylaminomethyl-tetraline | OC=1C=C2CCC(CC2=CC1)CNC(=O)OC(C)(C)C | C16H23NO3
